US06495581B1
Oxalyl chloride (0.156 ml) and N,N-dimethylformamide (catalytic amount) were added to a solution of E-4-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]-4-phenylbutyric acid (700 mg) in tetrahydrofuran (10 ml) at room temperature, which was stirred at room temperature for 30 minutes and concentrated. The residue was dissolved in tetrahydrofuran (10 ml) and added dropwise to a mixture of a 25% aqueous ammonia (15 ml) and ethyl acetate (20 ml) at 0° C. After stirred at room temperature for 1 hour, water was added and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The remaining crystals were recrystallized from ethyl acetate to obtain E-4-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]-4-phenylbutyramide (315 mg, yield 45%) as colorless crystals. m.p. 164-165° C.

reactant | Oxalyl chloride | 0.156 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
reactant | E-4-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]-4-phenylbutyric acid | 700 mg | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CO\N=C(/CCC(=O)O)\C2=CC=CC=C2)C=C1 | C28H26N2O5
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | E-4-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]-4-phenylbutyramide | 315 mg, yield 45% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CO\N=C(/CCC(=O)N)\C2=CC=CC=C2)C=C1 | C28H27N3O4
